Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / erythromycin / potassium 
iodide
 
Attending: ___
 
Chief Complaint:
numbness and dizziness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ left-handed woman with a history of
COPD, hypertension, hyperlipidemia, and ___ esophagus who
presented to OSH with dizziness and numbness of her extremities. 


Shortly after waking at 8AM on ___, she started feeling dizzy -
which she characterizes more as incoordination and a feeling of
dissociation rather than lightheadedness or vertigo.
Approximately 15 minutes later she developed an unusual 
sensation
of numbness in the entirety of both arms and legs (though she
admits she did not feel for the sensation in her shoulders or
upper thighs). Over the next few hours, the numb sensation
resolved in all of extremities except the right arm, where it
persists and extends to mid-humerus and progressively improves
without a sharp dermatomal cut-off.  She accidentally slammed 
one
of her fingers when closing a sliding glass door, which she took
as evidence of her incoordination.  She did not have any
weakness, and was able to walk without difficulty. She also felt
nauseated when she tried to eat a piece of toast. 

Four hours later, at approximately 12PM she was taken to ___ where initial head CT was negative. By the time of her
presentation, the numbness only involved the dorsum of her right
arm but she remained subjectively dizzy and felt "wiped out" and 

"lousy". CTA was not done due to history of a wheezing reaction
to iodinated contrast. She notes that she was once pre-treated
for the reaction and underwent a contrast chest CT successfully. 


There have been no recent illnesses, fever/chills, weight loss,
chest pain, palpitations, abdominal pain, constipation, or
dysuria.  She has chronic diarrhea attributed to Nexium use (she
is followed by gastroenterologist).

 
Past Medical History:
PMH/PSH:
-COPD
-Hypertension
-Hyperlipidemia
-___ esophagus
-DCIS

 
Social History:
SOCIAL HISTORY:
Works 3 days per week as ___ at ___ 
___.
Quit smoking "mainly" ___ years ago, though has had a few ___
months-long relapses since then.  Rare alcohol.

- Modified Rankin Scale:
[0] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
Non-contributory

 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T:98.0 HR:102 SBP:163-192 RR:17 SaO2:94%
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: Well perfused. 
Pulmonary: Breathing comfortably on room air. 
Abdomen: NT, ND.
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to perform serial 7s
accurately albeit slowly. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  No paraphasias.  No dysarthria. Normal prosody. Able to
register 3 objects and recall ___ at 5 minutes. No apraxia. No
evidence of hemineglect. Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. EOMI, no nystagmus. V1-V3
without deficits to light touch bilaterally. No facial movement
asymmetry. Hearing grossly intact to speech.  Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    0+     1+      1+       0
 R  2+    0+     1+      1+       0 
Plantar response withdrawal bilaterally

- Sensory: No deficits to light touch in bilateral hands and 
arm.
Graphesthesia intact on bilateral palms and dorsum of hands.
Decreased sensation to pinprick on right dorsal hand and arm 
(80%
of left). Cold sensation symmetric. Legs symmetric to light
touch, pin prick, and temperature. 
 No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence on rapid finger
tapping and rapid toe tapping. No cerebellar rebound in upper
extremities. 

- Gait: Normal based with normal arm swing. Able to tandem. 
 
Pertinent Results:
___ 09:35PM BLOOD WBC-9.6 RBC-4.14 Hgb-12.5 Hct-38.9 MCV-94 
MCH-30.2 MCHC-32.1 RDW-13.3 RDWSD-45.2 Plt ___
___ 09:35PM BLOOD Neuts-61.7 ___ Monos-6.9 Eos-3.4 
Baso-0.9 Im ___ AbsNeut-5.90 AbsLymp-2.56 AbsMono-0.66 
AbsEos-0.33 AbsBaso-0.09*
___ 10:00AM BLOOD ___ PTT-29.6 ___
___ 09:35PM BLOOD Glucose-145* UreaN-10 Creat-0.8 Na-138 
K-3.7 Cl-104 HCO3-23 AnGap-15
___ 09:35PM BLOOD ALT-17 AST-25 AlkPhos-70 TotBili-0.3
___ 09:35PM BLOOD cTropnT-<0.01

___ 09:35PM BLOOD ALT-17 AST-25 AlkPhos-70 TotBili-0.3
___ 10:00AM BLOOD %HbA1c-5.7 eAG-117
___ 10:00AM BLOOD Triglyc-76 HDL-78 CHOL/HD-2.5 LDLcalc-102
 
Brief Hospital Course:
Ms. ___ was admitted to the neurology stroke service, where 
her symptoms persisted as a bizarre itching sensation over the 
right dorsal forearm and hand. She had an MRI of the brain which 
was negative for acute stroke but did reveal significant 
atherosclerosis. LDL 102, therefore she was started on 
atorvastatin 80. Given her history of ___ esophagus, she 
was discharged on Plavix 75 mg daily for further stroke/TIA 
prevention. Because she is starting Plavix, she must stop taking 
NSAIDs and Devil's claw for sciatica. She will follow up with 
PCP for further treatment of sciatica pain. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? () Yes, confirmed 
done - (x) Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =102 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
 ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, Wheezing 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
3. Nexium 40 mg Other DAILY 
4. Lovastatin 40 mg oral DAILY 
5. Montelukast 10 mg PO DAILY 
6. Spiriva Respimat (tiotropium bromide) Dose is Unknown mg 
inhalation DAILY 
7. Lisinopril 10 mg PO DAILY 
8. magnesium 250 mg oral DAILY 
9. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
10. Krill Oil (Omega 3 and 6) (krill-om3-dha-epa-om6-lip-astx) 
1,500-165-67.5 mg oral DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*12 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*12 
3.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, Wheezing  
4.  Co Q-10 (coenzyme Q10) 100 mg oral DAILY  
5.  Esomeprazole 40 mg Other DAILY  
6.  Krill Oil (Omega 3 and 6) (krill-om3-dha-epa-om6-lip-astx) 
1,500-165-67.5 mg oral DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  magnesium 250 mg oral DAILY  
9.  Montelukast 10 mg PO DAILY  
10.  Spiriva Respimat (tiotropium bromide) Dose is Unknown  
inhalation DAILY  
11.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient ischemic attack

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of dizziness and numbness 
resulting from an TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
high cholesterol

We are changing your medications as follows:
Plavix 75 mg daily.
Atorvastatin 80mg daily.
It is important to NOT take NSAIDs (Ibuprofen) or Devil's Claw 
supplements, as those can cause bleeding if taken with Plavix.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___